US07910740B2
700 mg (2.35 mmol) 4-bromo-1-(2-methoxy-4-nitro-phenyl)-1H-imidazole and 2.755 g (12.2 mmol) stannous chloride dihydrate were suspended in a mixture of 40 ml ethyl acetate and 10 ml ethanol and stirred for 1 h at 70° C. The resulting mixture was poured into cold water and neutralized by addition of a saturated solution of sodium hydrogen carbonate. The product was extracted with ethyl acetate, dried and evaporated to give 627 mg (100%) of 4-(4-bromo-imidazol-1-yl)-3-methoxy-phenylamine as a yellowish solid. MS ISP (m/e): 268.0/270.1 (100/82) (M+H)+. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.49 (s, 1H), 7.77 (s, 1 H), 7.05 (s, 1H), 6.99 (d, 2H), 6.35-6.25 (m, 2H), 3.86 (s broad, 2H), 3.77 (s, 3H).

reactant | 4-bromo-1-(2-methoxy-4-nitro-phenyl)-1H-imidazole | 2.35 mmol, 700 mg | BrC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C10H8BrN3O3
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(4-bromo-imidazol-1-yl)-3-methoxy-phenylamine | 627 mg, 100% | BrC=1N=CN(C1)C1=C(C=C(C=C1)N)OC | C10H10BrN3O
